US08372837B2
To a stirring solution of 1-(3,4-dichlorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carbonitrile HCl (50 mg, 0.137 mmol) in NMP (2 mL) at room temperature under argon was added DIPEA (53.1 mg, 0.411 mmol) and 2-chloro-5-cyclopropylpyrimidine (31.7 mg, 0.205 mmol). The resulting reaction mixture was heated at 100° C. under argon overnight. 15 mL of EtOAc was added to the reaction mixture. The reaction mixture was washed with water (15 mL), and brine (15 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was dissolved in a small amount of DCM (˜2 ml) and loaded onto a 40 g ISCO silica gel column which was eluted with a 20 min gradient from 20% to 100% EtOAc/Hexanes. 27 mg (38.8%) of 4-(1-(5-cyclopropylpyrimidin-2-yl)piperidin-4-yloxy)-1-(3,4-dichlorophenyl)-6-oxo-1,6-dihydropyridazine-3-carbonitrile was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 0.50-0.66 (m, 2H) 0.82-0.98 (m, 2H) 1.64-1.79 (m, 1H) 1.83-1.99 (m, 2H) 1.99-2.16 (m, 2H) 3.60-3.90 (m, 2H) 3.96-4.25 (m, 2H) 4.56-4.87 (m, 1H) 6.31 (s, 1H) 7.41-7.50 (m, 1H) 7.50-7.60 (m, 1H) 7.73 (d, J=2.20 Hz, 1H) 8.05-8.18 (m, 2H). MS (ESI) 483 (M+H).

reactant | 1-(3,4-dichlorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carbonitrile HCl | 0.137 mmol, 50 mg | Cl.ClC=1C=C(C=CC1Cl)N1N=C(C(=CC1=O)OC1CCNCC1)C#N
reactant | DIPEA | 0.411 mmol, 53.1 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-cyclopropylpyrimidine | 0.205 mmol, 31.7 mg | ClC1=NC=C(C=N1)C1CC1 | C7H7ClN2
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 4-(1-(5-cyclopropylpyrimidin-2-yl)piperidin-4-yloxy)-1-(3,4-dichlorophenyl)-6-oxo-1,6-dihydropyridazine-3-carbonitrile | 27 mg, 38.8% | C1(CC1)C=1C=NC(=NC1)N1CCC(CC1)OC=1C(=NN(C(C1)=O)C1=CC(=C(C=C1)Cl)Cl)C#N | C23H20Cl2N6O2
